US07425560B2
d) 3-Cyclohexylmethyl-2-thioxanthine
5,6-Diamino-1-cyclohexylmethyl-2-thioxo-2,3-dihydro-1H-pyrimidin-4-one, (1.44 g, 5.67 mmol) together with triethyl orthoformate (15 mL) was heated at 146° C. for 2 h and 10 minutes. The mixture was allowed to cool to ambient temperature and then further cooled on an ice-bath, followed by addition of heptane (5 mL). After filtration of the suspension and washing with heptane (20 mL), the obtained solid was dried in vacuo. Suspending the solid (1.2 g) in a hot mixture of 2-propanol (125 mL), water (5 mL) and tert-butyl methyl ether (25 mL) gave, after cooling and filtration, a white precipitate which was washed with further tert-butyl methyl ether (5 mL). The solid was dried in vacuo to give the title compound (0.95 g, 63%).

reactant | 5,6-Diamino-1-cyclohexylmethyl-2-thioxo-2,3-dihydro-1H-pyrimidin-4-one | 5.67 mmol, 1.44 g | NC=1C(NC(N(C1N)CC1CCCCC1)=S)=O | C11H18N4OS
reactant | triethyl orthoformate | 15 mL | C(OCC)(OCC)OCC | C7H16O3
solvent | heptane | 5 mL | CCCCCCC | C7H16
product | 3-Cyclohexylmethyl-2-thioxanthine | 0.95 g, 63% | C1(CCCCC1)CN1C(NC(C=2NC=NC12)=O)=S | C12H16N4OS
